US04598085
To a stirred mixture of 3.8 parts of a sodium hydride dispersion 78% and 90 parts of N,N-dimethylformamide is added dropwise a solution of 21 parts of 2,4-bis(4-chlorophenyl)butyl methanesulfonate in 45 parts of N,N-dimethylformamide. After stirring for 15 minutes at room temperature, there is added a solution of 7.6 parts of 1H-1,2,4-triazole in 45 parts of N,N-dimethylformamide. The whole is heated slowly to 100° C. and stirring is continued for 2 hours at 100° C. The reaction mixture is poured onto water and the product is extracted with 1,1'-oxybisethane. The extract is washed with water, dried, filtered and evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (97.5:2.5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The oily residue is converted into the hydrochoride salt in 2,2'-oxybispropane. The salt is filtered off and crystallized from a mixture of methanol and 2,2'-oxybispropane, yielding 7 parts (32.5%) of 1-[2,4-bis(4-chlorophenyl)butyl]-1H-1,2,4-triazole hydrochloride; mp. 173.4° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 2,4-bis(4-chlorophenyl)butyl methanesulfonate | CS(=O)(=O)OCC(CCC1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C17H18Cl2O3S
reactant | 1H-1,2,4-triazole | N1N=CN=C1 | C2H3N3
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[2,4-bis(4-chlorophenyl)butyl]-1H-1,2,4-triazole hydrochloride | 32.5% | Cl.ClC1=CC=C(C=C1)C(CN1N=CN=C1)CCC1=CC=C(C=C1)Cl | InChI=1S/C18H17Cl2N3.ClH/c19-17-7-2-14(3-8-17)1-4-16(11-23-13-21-12-22-23)15-5-9-18(20)10-6-15;/h2-3,5-10,12-13,16H,1,4,11H2;1H
